US08252935B2
To a solution of a mixture of 4-methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-phenyl)-piperidin-4-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester and methyl ester (69 mg, 0.12 mmol) in MeOH (2 mL) was added 3N NaOH (0.100 mL) and heated to 50° C. for 14 h. The reaction was concentrated in vacuo to remove MeOH. The thick liquid was acidified to pH=2 by 2N HCl. The resulting acidic solution was extracted with EtOAc. The organic fraction was dried (MgSO4) and concentrated in vacuo. The crude mixture was purified by Gilson reverse phase column chromatography to obtain 4-methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-phenyl)-piperidin-4-yl]-biphenyl-3-yl}-pentanoic acid. 1H-NMR (DMSO-d6): δ 0.88 (d, 6H), 1.44 (m, 1H), 1.60 (m, 1H), 1.69-1.99 (m, 5H), 2.92 (m, 4H), 3.68 (m, 2H), 4.02 (d, 2H), 7.10 (s, 1H), 7.13 (s, 1H), 7.29 (s, 1H), 7.51 (m, 4H), 7.85 (dd, 4H); Calcd for C31H31F6NO2 (M+H) 564.57, Found 564.3

reactant | 4-methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-phenyl)-piperidin-4-yl]-biphenyl-3-yl}-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C33H35F6NO2
reactant | NaOH | 3N, 0.100 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 4-methyl-2-{4′-trifluoromethyl-5-[1-(4-trifluoromethyl-phenyl)-piperidin-4-yl]-biphenyl-3-yl}-pentanoic acid | CC(CC(C(=O)O)C=1C=C(C=C(C1)C1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C | C31H31F6NO2
